US04234590
Preparation of 2-bromo-3-trifluoromethylthiopyridine
A solution of 30% HBr, AcOH (70 mL) was added dropwise with stirring at 40° C. to a solution of 4-cyano-4-trifluoromethylthio-3-butenealdehydedimethylacetal and 1-cyano-1-trifluoromethylthio-4-methoxy-1,3-butadiene (8.8 g) in AcOH (40 mL). After the addition, the solution was heated at 55° C. for 2 hours, poured onto ice and neutralized with solid Na2CO3. The solution was extracted with CH2Cl2 (3x) and the CH2Cl2 extracts dried, filtered and concentrated to dryness. The residual oil was distilled at 68°-71° C. at 0.3 mm of yield 4.0 g (16%) of 2-bromo-3-trifluoromethylthiopyridine 1H NMR (CDCL3) δ7.35 (1H, dd, J=4 and 8), 8.05 (1H, dd, J=2 and 8), 8.45 (1H, dd, J=3 and 4); 19F NFR (CDCl3)+40.7 (s).

reactant | HBr | Br | BrH
reactant | 1-cyano-1-trifluoromethylthio-4-methoxy-1,3-butadiene | 8.8 g | C(#N)C(=CC=COC)SC(F)(F)F | C7H6F3NOS
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | AcOH | 40 mL | CC(=O)O | C2H4O2
solvent | AcOH | 70 mL | CC(=O)O | C2H4O2
product | 2-bromo-3-trifluoromethylthiopyridine | BrC1=NC=CC=C1SC(F)(F)F | C6H3BrF3NS
